US06242598B1
4,6-Bis-(2,4-dimethylphenyl)-2-(2,4-dihydroxyphenyl)-s-triazine
To a 50 mL round-bottomed flask equipped with a magnetic stirrer, condenser and nitrogen atmosphere are charged 1.00 g (3.10 mmol) of 4,6-bis-(2,4-dimethylphenyl)-2-chloro-s-triazine and 1.70 g (15.5 mmol) of resorcinol. The mixture is stirred at 180° C. for five hours at which point 1H nmr (CDCI3) of an aliquot reveals a 72% overall conversion to the title compound.

reactant | 4,6-bis-(2,4-dimethylphenyl)-2-chloro-s-triazine | 3.10 mmol, 1.00 g | CC1=C(C=CC(=C1)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)Cl | C19H18ClN3
reactant | resorcinol | 15.5 mmol, 1.70 g | C1(O)=CC(O)=CC=C1 | C6H6O2
product | 4,6-Bis-(2,4-dimethylphenyl)-2-(2,4-dihydroxyphenyl)-s-triazine | CC1=C(C=CC(=C1)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)O)O | C25H23N3O2
